US08541575B2
4-[1-(4-methoxybenzyl)-3-(3-nitrophenyl)-1H-pyrazol-4-yl]-2-(methylsulfanyl)-pyrimidine
2.6 g (6 mmol) of 1-(4-methoxybenzyl)-3-(3-nitrophenyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole were dissolved in a mixture of 520 ml of dioxane and 130 ml of water under a nitrogen atmosphere. 709 μl (6 mmol) of 2-methylthio-4-chloro-pyrimidine, 3.9 g (12 mmol) of cesium carbonate and 650 mg (0.6 mmol) of palladium tetrakis were added consecutively to the resulting solution under stirring. The reaction mixture was heated at 100° C. for 6 hours, then filtered through a celite pad and concentrated under reduced pressure. The residue was partitioned between dichloromethane and water, the organic layer dried over sodium sulphate and evaporated to dryness. The crude was finally purified by flash-chromatography on a silica gel column (cyclohexane-ethylacetate; from 9/1 to 4/1), giving 2.3 g (88%) of the title compound.

reactant | 1-(4-methoxybenzyl)-3-(3-nitrophenyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 6 mmol, 2.6 g | COC1=CC=C(CN2N=C(C(=C2)B2OC(C(O2)(C)C)(C)C)C2=CC(=CC=C2)[N+](=O)[O-])C=C1 | C23H26BN3O5
reactant | 2-methylthio-4-chloro-pyrimidine | 6 mmol, 709 μl | CSC1=NC=CC(=N1)Cl | C5H5ClN2S
reactant | cesium carbonate | 12 mmol, 3.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 520 ml | O1CCOCC1 | C4H8O2
solvent | water | 130 ml | O | H2O
catalyst | palladium tetrakis | 0.6 mmol, 650 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[1-(4-methoxybenzyl)-3-(3-nitrophenyl)-1H-pyrazol-4-yl]-2-(methylsulfanyl)-pyrimidine | 2.3 g, 88% | COC1=CC=C(CN2N=C(C(=C2)C2=NC(=NC=C2)SC)C2=CC(=CC=C2)[N+](=O)[O-])C=C1 | C22H19N5O3S
